US09238640B2
Preparation of 2-(3-(Hydroxymethyl)-1H-indazol-5-yl)-5,7-dimethoxyquinazolin-4(3H)-one
To a solution of 3-(tetrahydro-pyran-2-yloxymethyl)-1H-indazole-5-carbaldehyde (0.32 g, 1.23 mmol) and 2-amino-4,6-dimethoxy-benzamide (0.24 g, 1.23 mmol) in N,N-dimethylacetamide (10 mL) were added NaHSO3 (58.5 wt %, 0.27 g, 1.48 mmol) and p-toluenesulfonic acid monohydrate (0.05 g, 0.25 mmol); the reaction mixture was heated at 120° C. for 16 hours, then cooled to room temperature. Solvent was removed under reduced pressure. The residue was diluted with water (100 mL). The separated solid was filtered and washed with water and dried under vacuum. The residue was purified by the Simpliflash system (0-5% methanol in CH2Cl2 as eluent) to give the title compound as an off-white solid. Yield: 30 mg (7%). MP 264-266° C. 1H NMR (400 MHz, CD3OD): δ 8.60 (s, 1H), 8.10 (d, J=8.98 Hz, 1H), 7.65 (d, J=8.98 Hz, 1H), 6.85 (d, J=1.95 Hz, 1H), 6.55 (d, J=1.95 Hz, 1H), 5.05 (s, 2H), 3.96 (s, 6H).

reactant | 3-(tetrahydro-pyran-2-yloxymethyl)-1H-indazole-5-carbaldehyde | 1.23 mmol, 0.32 g | O1C(CCCC1)OCC1=NNC2=CC=C(C=C12)C=O | C14H16N2O3
reactant | 2-amino-4,6-dimethoxy-benzamide | 1.23 mmol, 0.24 g | NC1=C(C(=O)N)C(=CC(=C1)OC)OC | C9H12N2O3
reactant | NaHSO3 | 1.48 mmol, 0.27 g | OS(=O)[O-].[Na+]
reactant | p-toluenesulfonic acid monohydrate | 0.25 mmol, 0.05 g | O.C1(=CC=C(C=C1)S(=O)(=O)O)C
solvent | N,N-dimethylacetamide | 10 mL | CN(C(C)=O)C | C4H9NO
product | 2-(3-(Hydroxymethyl)-1H-indazol-5-yl)-5,7-dimethoxyquinazolin-4(3H)-one | OCC1=NNC2=CC=C(C=C12)C1=NC2=CC(=CC(=C2C(N1)=O)OC)OC | C18H16N4O4
